US06056939
Second Procedure for the Synthesis of N-benzyloxy-N-(2'-aminoethyl)-3-aminopropanamide (scheme V.B)
3-Phtalimido-propanoic acid (IV.1) (0.74 g, 3.375 mmol) was dissolved in tetrahydrofuran (15 ml, dried over potassium and distilled) under nitrogen, Triethylamine (0.494 ml, 3.54 mmol, 5% excess) was added to this solution and the mixture was cooled to -15° C. iso-Butyl chloroformate (0.46 ml, 3.54 mmol in 5 ml dry tetrahydrofuran) was added dropwise while maintaining the temperature at -15° C. After 15 minutes, N-benzyloxy-2-phtalimidoethylamine (IV.5) (1 g, 3.375 mmol in 10 ml dry tetrahydrofuran) was added dropwise at -15° C. and under nitrogen. The mixture was stirred during 3 hours at -15° C. and at room temperature overnight. The solvent was evaporated under reduced pressure and the residue was taken up in ethyl acetate (25 ml). The solution was extracted with water (25 ml), saturated sodium carbonate (25 ml), water (25 ml), 1M hydrochloric acid (25 ml), water (25 ml) and brine (25 ml). The organic solution was dried over magnesium sulfate, filtered and evaporated. The remaining white residue was recrystallized in hexane/ethyl acetate. The title compound was isolated as white crystals that were dried under vacuum. Yield: 53%

reactant | 3-Phtalimido-propanoic acid | 3.375 mmol, 0.74 g | C1(C=2C(C(N1CCC(=O)O)=O)=CC=CC2)=O | C11H9NO4
reactant | Triethylamine | 3.54 mmol, 0.494 ml | C(C)N(CC)CC | C6H15N
reactant | iso-Butyl chloroformate | 3.54 mmol, 0.46 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-benzyloxy-2-phtalimidoethylamine | 3.375 mmol, 10 ml, 1 g | C(C1=CC=CC=C1)ONCCN1C(C=2C(C1=O)=CC=CC2)=O | C17H16N2O3
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-benzyloxy-N-(2'-aminoethyl)-3-aminopropanamide | Yield: 53% | C(C1=CC=CC=C1)ON(C(CCN)=O)CCN | C12H19N3O2
